US06518423B1
Ethyl 4-[1-[(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)carbonyl]piperidin-4-yl]-2-methylbutanoate
To a solution of 1 g of 10H-pyrazino[2,3-b][1,4]-benzothiazine-8-carboxylic acid in tetrahydrofuran (50 ml) were added under ice-cooling 0.6 ml of triethylamine and 0.55 ml of diethyl chlorophosphate. The resulting mixture was reacted at room temperature for 0.5 hour. Next, 0.66 g of ethyl 4-(piperidin-4-yl)-2-methylbutanoate was added thereto and the resulting mixture was stirred at room temperature for 12 hours. After adding ethyl acetate to the reaction mixture, the organic layer was washed with water and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 1.0 g of the title compound as a yellow oily substance.

reactant | 10H-pyrazino[2,3-b][1,4]-benzothiazine-8-carboxylic acid | 1 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)C(=O)O | C11H7N3O2S
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl chlorophosphate | 0.55 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | ethyl 4-(piperidin-4-yl)-2-methylbutanoate | 0.66 g | N1CCC(CC1)CCC(C(=O)OCC)C | C12H23NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-[1-[(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)carbonyl]piperidin-4-yl]-2-methylbutanoate | 1.0 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)C(=O)N3CCC(CC3)CCC(C(=O)OCC)C | C23H28N4O3S
